US05187156
To a solution of Boc-Lys(Z)-D-Trp(CHO)-Phe-NMeBzl (1.04 g) in methylene chloride (10 ml) was added 4N-HCl/DOX (10 ml) under ice-cooling. The mixture was stirred for an hour at room temperature. After evaporation, the residue was pulverized with diisopropyl ether, filtered, washed with diisopropyl ether and dried. The obtained HCl.H-Lys(Z)-D-Trp(CHO)-Phe-NMeBzl (0.94 g) was dissolved in methylene chloride (15 ml) and cooled in an ice-bath. To the solution were added triethylamine (0.34 ml) and Ac2O (0.11 ml) and the mixture was stirred for an hour at the same temperature. After evaporation and extraction with ethyl acetate, the organic layer was washed successively with water, 2% hydrochloric acid, water, 2% sodium hydrogencarbonate, water and saturated sodium chloride, and then dried over magnesium sulfate. The evaporated residue was subjected to column chromatography on silica gel (50 g) and eluted with a mixture of chloroform and methanol (50 ml). The fractions containing the object compound were combined and evaporated. The residue was pulverized with n-hexane, filtered, washed with n-hexane and dried to give Ac-Lys(Z)-D-Trp(CHO)-Phe-NMeBzl (0.82 g).

reactant | Boc-Lys(Z)-D-Trp(CHO)-Phe-NMeBzl | 1.04 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C48H56N6O8
reactant | HCl | Cl | ClH
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Ac-Lys(Z)-D-Trp(CHO)-Phe-NMeBzl | 0.82 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)C | C45H50N6O7
